US08084485B2
To a solution of (R)-3,6-diethoxy-2-isopropyl-2,5-dihydropyrazine (15.4 g, 0.084 mol) in anhydrous THF (250 mL) at −78° C. was added dropwise 2.5 M n-BuLi in hexanes (34 mL, 0.085 mol) over 45 min. After stirring for 30 min at −78° C., a solution of (S)-((2-(bromomethyl)-3-methylbutoxy)methyl)benzene (15.6 g, 0.056 mol) in THF (100 L) was added dropwise over 30 min. The mixture was stirred for 2 h at −78° C. and then at −20° C. for 18 h. After evaporation, the residue was partitioned between H2O (200 mL) and EtOAc (3×200 mL). The combined organic layers were washed with brine (0.5 L), dried over MgSO4, evaporated, and purified by flash chromatography on silica gel eluting with 1:25 EtOAc/hexane to give (2S,5R)-2-((S)-2-(benzyloxymethyl)-3-methylbutyl)-3,6-diethoxy-5-isopropyl-2,5-dihydropyrazine (18.5 g, 80%). 1H NMR (400 MHz, CDCl3): δ8.00 (s, 1H), 7.34-7.24 (m, 5H), 4.50 (s, 2H), 4.03 (m, 1H), 3.93 (m, 1H), 3.72 (s, 3H), 3.62 (s, 3H), 3.54-3.42 (m, 2H), 2.27 (m, 1H), 1.94-1.88 (m, 1H), 1.80-1.61 (m, 1H), 1.47-1.42 (m, 1H), 1.05 (d, J=6.4 Hz, 3H), 0.88 (d, J=6.4 Hz, 3H), 0.80 (d, J=6.4 Hz, 3H), 0.68 (d, J=6.4 Hz, 3H); MS: 403 (M++1).

reactant | (R)-3,6-diethoxy-2-isopropyl-2,5-dihydropyrazine | 0.084 mol, 15.4 g | C(C)OC=1[C@H](N=C(CN1)OCC)C(C)C | C11H20N2O2
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | (S)-((2-(bromomethyl)-3-methylbutoxy)methyl)benzene | 0.056 mol, 15.6 g | BrC[C@H](COCC1=CC=CC=C1)C(C)C | C13H19BrO
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 100 L | C1CCOC1 | C4H8O
product | (2S,5R)-2-((S)-2-(benzyloxymethyl)-3-methylbutyl)-3,6-diethoxy-5-isopropyl-2,5-dihydropyrazine | 18.5 g, 80% | C(C1=CC=CC=C1)OC[C@@H](C[C@@H]1N=C([C@H](N=C1OCC)C(C)C)OCC)C(C)C | C24H38N2O3
